US04663341
Preparation of 3,4-dichlorophenyl benzyl ketone
In a 500 ml round bottomed flask was placed 75 g of crude 3,4-dichlorophenyl benzyl carbinol and 300 ml of acetone. The reaction mixture was cooled to 0° C. and a solution of 20 g of chromic anhydride and 17.25 ml of concentrated sulfuric acid in 60 ml of water was added at a rate to keep the internal temperature below 5° C. After stirring an additional 15 minutes, the reaction was quenched with 10 ml of isopropanol and partitioned between ethyl ether and water. The organic layer was washed with brine, dried, and concentrated. The resulting crude ketone was crystallized from hexane yielding 51 g of 3,4-dichlorophenyl benzyl ketone.

reactant | 3,4-dichlorophenyl benzyl carbinol | 75 g | ClC=1C=C(C=CC1Cl)C(O)CC1=CC=CC=C1 | C14H12Cl2O
reactant | acetone | 300 ml | CC(=O)C | C3H6O
reactant | sulfuric acid | 17.25 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 60 ml | O | H2O
product | 3,4-dichlorophenyl benzyl ketone | C(C1=CC=CC=C1)C(=O)C1=CC(=C(C=C1)Cl)Cl | C14H10Cl2O
